US08044062B2
A suspension of (1E)-N′-(aminocarbonothioyl)-N,N-dimethylethanimidamide (47.8 g, 0.33 mole) in methyl iodide (150 mL) and THF (350 mL) was stirred for 18 h at room temperature. The mixture was evaporated under reduced pressure. After addition of 5% MeOH and diethyl ether, the compound precipitated and was collected by filtration affording (1E)-N′-[amino(methylthio)methyl]-N,N-dimethylethanimidamide hydrogen iodide salt (91.0 g, 96% yield).

reactant | (1E)-N′-(aminocarbonothioyl)-N,N-dimethylethanimidamide | 0.33 mole, 47.8 g | NC(=S)/N=C(\C)/N(C)C | C5H11N3S
reactant | methyl iodide | 150 mL | CI | CH3I
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | (1E)-N′-[amino(methylthio)methyl]-N,N-dimethylethanimidamide hydrogen iodide salt | 91.0 g, 96% yield | I.NC(/N=C(\C)/N(C)C)SC | InChI=1S/C6H15N3S.HI/c1-5(9(2)3)8-6(7)10-4;/h6H,7H2,1-4H3;1H/b8-5+;
